US09382197B2
methyl 4-(1-aminoethyl)benzoate hydrochloride
To a degassed solution of methyl 4-(1-(hydroxyimino)ethyl)benzoate (1.1 g, 5.6 mmol) and 12.0 M of hydrochloric acid in water (0.6 mL, 7.3 mmol) in methanol (50 mL) was added 10% palladium on carbon (0.20 g, 0.18 mmol). The reaction mixture was stirred overnight at room temperature. All insolubles were removed via filtration through celite and subsequent evaporation of the filtrate to dryness afforded the title compound as a white solid (1.12 g, 83%). LC-MS: (FA) ES+ 180; 1H NMR (400 MHz, MeO D) δ 8.09 (d, J=8.4 Hz, 1H), 7.58 (d, J=8.4 Hz, 1H), 4.55 (q, J=6.8 Hz, 1H), 3.91 (s, 3H), 1.65 (d, J=6.9 Hz, 3H).

reactant | methyl 4-(1-(hydroxyimino)ethyl)benzoate | 5.6 mmol, 1.1 g | ON=C(C)C1=CC=C(C(=O)OC)C=C1 | C10H11NO3
reactant | hydrochloric acid | 12.0 M | Cl | ClH
reactant | water | 7.3 mmol, 0.6 mL | O | H2O
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on carbon | 0.18 mmol, 0.20 g | [Pd] | Pd
product | methyl 4-(1-aminoethyl)benzoate hydrochloride | 1.12 g, 83% | Cl.NC(C)C1=CC=C(C(=O)OC)C=C1 | InChI=1S/C10H13NO2.ClH/c1-7(11)8-3-5-9(6-4-8)10(12)13-2;/h3-7H,11H2,1-2H3;1H
